** sch_path: /workspace/analog/schematics/tb_ac_analysis.sch
**.subckt tb_ac_analysis
x1 out net1 net3 net4 bootcamp_opamp
VDD VDD GND 1.8
VCM net5 GND 0.9
VB net4 GND 0.7
VDIFF net3 net2 dc -0.6353087m ac 1
R1 net5 net1 1e6 m=1
R2 net5 net2 1e6 m=1
**** begin user architecture code

.control
save all
op
ac dec 100 1 10G
* double checking gain
let gain_db = db(v(out))
let phase = 180/PI * ph(v(out))
plot gain_db title 'AC Gain (dB)' ylabel 'dB'
plot phase title 'Phase (deg)' ylabel 'degrees'

* 3dB bandwidth
meas ac dc_gain max gain_db
meas ac bw_3db when gain_db=dc_gain-3

* gbw product
meas ac gbw when gain_db=0
print dc_gain bw_3db gbw
.endc


.param mc_mm_switch=0
.param mc_pr_switch=0
.include /root/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /root/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /root/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /root/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  bootcamp_opamp.sym # of pins=4
** sym_path: /workspace/analog/symbols/bootcamp_opamp.sym
** sch_path: /workspace/analog/schematics/bootcamp_opamp.sch
.subckt bootcamp_opamp Vout Vin- Vin+ Vbias
*.ipin Vin+
*.ipin Vbias
*.ipin Vin-
*.opin Vout
XM1 net2 Vin+ net1 GND sky130_fd_pr__nfet_01v8 L=1 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=30 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=30 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 Vbias GND GND sky130_fd_pr__nfet_01v8 L=2 W=25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 Vin- net1 GND sky130_fd_pr__nfet_01v8 L=1 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 net4 Vout sky130_fd_pr__cap_mim_m3_1 W=50 L=10 MF=1 m=1
R1 net3 net4 sky130_fd_pr__res_generic_po W=10 L=1 m=1
XM7 Vout Vbias GND GND sky130_fd_pr__nfet_01v8 L=2 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 Vout net3 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=60 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
